US08703952B2
2,8-Dimethyl-5-[2-(6-methyl-pyridin-3-yl)-ethyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (Dimebon)
Concentrated HCl (6 cm3) was added to EtOH (4 cm3). The crude N′-(1-methyl-piperidin-4-ylidene)-N-[2-(6-methyl-pyridin-3-yl)-ethyl]-N-p-tolyl-hydrazine was dissolved in this ethanolic HCl and heated to 100° C. for 30 minutes. The reaction was then cooled, and diluted with H2O (10 cm3), saturated with Na2CO3, and extracted with CHCl3 (3×50 cm3). The combined extracts were dried (MgSO4) and solvent removed. The residual brown oil was purified by flash column chromatography over SiO2 (10×2 cm) eluting with 1:1 EtOAc/MeOH to provide the desired product as a pale brown powder (612 mg, 63% yield over 3 steps based on last pure starting material (2-methyl-5-(N-nitroso-2-p-tolylaminoethyl)pyridine)).

reactant | EtOH | 4 cm3 | CCO | C2H6O
reactant | N′-(1-methyl-piperidin-4-ylidene)-N-[2-(6-methyl-pyridin-3-yl)-ethyl]-N-p-tolyl-hydrazine | CN1CCC(CC1)=NN(C1=CC=C(C=C1)C)CCC=1C=NC(=CC1)C | C21H28N4
solvent | HCl | Cl | ClH
solvent | H2O | 10 cm3 | O | H2O
solvent | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | HCl | 6 cm3 | Cl | ClH
product | 2,8-Dimethyl-5-[2-(6-methyl-pyridin-3-yl)-ethyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 612 mg, 63% yield | CN1CC2=C(N(C=3C=CC(=CC23)C)CCC=2C=NC(=CC2)C)CC1 | C21H25N3
